US08030308B2
A suspension of 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid (1.0 g, 2.6 mmol) in acetone (130 mL) and tetrahydrofuran (30 mL) was treated with triethylamine (0.5 g, 0.68 mL, 1.9 equiv.) and stirred at room temperature overnight. A solution of cyanuric chloride (596 mg, 3.2 mmol, 1.24 equiv.) in acetone (20 mL) was added dropwise over a period of 1 hour. The reaction mixture was stirred at room temperature for 4 hours, 4-amino-benzoic acid ethyl ester (775 mg, 4.7 mmol, 1.8 equiv.) was then added. The reaction mixture was stirred at room temperature overnight, the solvents were then removed. The residue was purified by flash chromatography, to yield 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester as a white solid, 0.91 g (66%). δH (300 MHz; CDCl3) 8.10 (1H, d), 8.03-8.07 (3H, m), 7.92 (1H, bs), 7.73 (2H, d), 7.70 (1H, d), 7.67 (1H, d), 7.53 (1H, d), 7.50 (1H, d), 4.37 (2H, q), 4.03 (2H, m), 3.88 (2H, m), 3.56 (3H, s), 1.40 (3H, t).

reactant | 4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid | 2.6 mmol, 1.0 g | ClC=1C=CC(=C(C1)S(=O)(=O)N1CCOC2=C1C=C(C=C2)C(=O)O)OC | C16H14ClNO6S
reactant | triethylamine | 0.68 mL, 0.5 g, 1.9 equiv. | C(C)N(CC)CC | C6H15N
reactant | cyanuric chloride | 3.2 mmol, 596 mg, 1.24 equiv. | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-amino-benzoic acid ethyl ester | 4.7 mmol, 775 mg, 1.8 equiv. | C(C)OC(C1=CC=C(C=C1)N)=O | C9H11NO2
solvent | acetone | 130 mL | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 4-{[4-(5-chloro-2-methoxy-benzenesulfonyl)-3,4-dihydro-2H-benzo[1,4]oxazine-6-carbonyl]-amino}-benzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)NC(=O)C=1C=CC2=C(N(CCO2)S(=O)(=O)C2=C(C=CC(=C2)Cl)OC)C1)=O | C25H23ClN2O7S
